US07598392B2
A) 1-(2-Methoxy-5-propylphenyl)ethanone
A suspension of 10.6 g of AlCl3 in 150 mL of dichloromethane is cooled to −10° C. 5.7 mL of AcCl and 6 g of 4-propylanisole are added. The medium is stirred for 30 minutes at −10° C. and then poured into a beaker containing ice mixed with 35% HCl. After separation of the phases by settling, the aqueous phase is extracted 3 times with DCM and the combined organic phases are washed with water, with saturated NaCl solution, dried over MgSO4 and then evaporated to give 7.86 g of a brown oil.

reactant | AlCl3 | 10.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | AcCl | 5.7 mL | C(=O)(C)Cl | C2H3ClO
reactant | 4-propylanisole | 6 g | C(CC)C1=CC=C(C=C1)OC | C10H14O
reactant | HCl | Cl | ClH
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-(2-Methoxy-5-propylphenyl)ethanone | 7.86 g | COC1=C(C=C(C=C1)CCC)C(C)=O | C12H16O2
